US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-N'-(4-phenoxyphenyl)urea [50]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (53 mg) was dissolved in toluene (3 ml) with heat, 4-phenoxyphenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 30 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 55 mg of the title compound (yield: 60%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 53 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-phenoxyphenyl isocyanate | 0.2 ml | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-N'-(4-phenoxyphenyl)urea | 55 mg, yield: 60% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C30H25N3O5
